US07622583B2
To a solution of pyridine-2,6-diamine (2 g, 18.3 mmol) was added LiHMDS (20 mL, 20 mmol). The resultant solution was stirred at ambient temperature for 30 minutes, followed by the addition of (Boc)2O (4.8 g, 22 mmol) and stirred for 3 hours. The mixture was stirred 3 h, diluted with ethyl acetate, washed with water, and purified by flash column to give (6-amino-pyridin-2-yl)-carbamic acid tert-butyl ester.

reactant | pyridine-2,6-diamine | 18.3 mmol, 2 g | N1=C(C=CC=C1N)N | C5H7N3
reactant | LiHMDS | 20 mmol, 20 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (Boc)2O | 22 mmol, 4.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6-amino-pyridin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)N)=O | C10H15N3O2
